US07351719B2
Z34b) (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-acrylic acid
12.6 mL aqueous NaOH (1 M) was added at RT to a suspension of 1.200 g (4.200 mmol) ethyl (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-acrylate (Z34a) in 50 mL EtOH and the mixture was stirred for 1 h . 12.6 mL aqueous HCl (1 M) was added at 0° C. The precipitate formed was filtered off, washed with water and dried i. vac. at 100° C.

reactant | NaOH | 1 M, 12.6 mL | [OH-].[Na+]
reactant | ethyl (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-acrylate | 4.200 mmol, 1.200 g | ClC1=CC=C(C=C1)C=1C=CC(=NC1)/C=C/C(=O)OCC | C16H14ClNO2
reactant | HCl | 1 M, 12.6 mL | Cl | ClH
solvent | EtOH | 50 mL | CCO | C2H6O
product | (E)-3-[5-(4-chloro-phenyl)-pyridin-2-yl]-acrylic acid | ClC1=CC=C(C=C1)C=1C=CC(=NC1)/C=C/C(=O)O | C14H10ClNO2
